US08609656B2
1-{4-[6-Amino-8-(2-methoxy-ethoxy)purin-9-yl]phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 2, Compound No. 18)
The title compound can be prepared from 1-[4-(6-amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea and 2-methoxyethanol by using the same techniques as in Example 136.

reactant | 1-[4-(6-amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)I | C19H12ClF3IN7O
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 1-{4-[6-Amino-8-(2-methoxy-ethoxy)purin-9-yl]phenyl}-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)OCCOC | C22H19ClF3N7O3
